US04672066
To a cooled (3) solution of 2.0 g of 6-(4-acetyl-3-hydroxy-2-propylphenoxy)hexanoic acid in 40 mL of anhydrous toluene was added 1.68 mL of diphenylphosphoryl azide followed by 1.36 mL of triethyl amine. The mixture was stirred at 3° for 90 minutes and at 90° for 5 hours. After cooling, 1.07 g of 3-pyridine butanamine was added and heating at 90° was continued for 24 hours. The solvent was removed in vacuo and the residual oil was dissolved in methylene chloride and washed with sodium bicarbonate solution. The dried (over magnesium sulfate) extract was concentrated and purified by HPLC using 7% methanol-ethyl acetate. Crystallization of the combined pure fractions from ethyl acetate-hexane gave 2.0 g, mp 73°-76° (66% yield) of N-[5-(4-acetyl-3-hydroxy-2-propylphenoxy)-pentyl]-N'-[4-(3-pyridinyl)-butyl]urea

reactant | 6-(4-acetyl-3-hydroxy-2-propylphenoxy)hexanoic acid | 2.0 g | C(C)(=O)C1=C(C(=C(OCCCCCC(=O)O)C=C1)CCC)O | C17H24O5
reactant | diphenylphosphoryl azide | 1.68 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethyl amine | 1.36 mL | C(C)N(CC)CC | C6H15N
reactant | 3-pyridine butanamine | 1.07 g | N1=CC(=CC=C1)CCCCN | C9H14N2
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | N-[5-(4-acetyl-3-hydroxy-2-propylphenoxy)-pentyl]-N'-[4-(3-pyridinyl)-butyl]urea | 2.0 g, 66% yield | C(C)(=O)C1=C(C(=C(OCCCCCNC(=O)NCCCCC=2C=NC=CC2)C=C1)CCC)O | C26H37N3O4
